US07632840B2
N′-({4-[(3-Chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N,N-dimethylethane-1,2-diamine was coupled with ethyl O-trifluoromethanesulfonyl-D-lactate and hydrolysed using analogous methods to those described for the equivalent steps in Example 46 to give N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-[2-(dimethylamino)ethyl]-L-alanine; 1H NMR Spectrum: (DMSO-d6) 1.24 (d, 3H); 2.36 (s, 6H); 2.63 (m, 2H); 2.77 (m, 1H); 2.86 (m, 1H); 3.41 (q, 1H); 3.80 (d, 1H); 3.89 (d, 1H); 3.96 (s, 3H); 7.21 (s, 1H); 7.29 (t, 1H); 7.49 (t, 1H); 7.60 (t, 1H); 8.36 (s, 1H); 8.44 (s, 1H); 9.71 (brs, 1H); Mass Spectrum: (M+H)+ 476.

reactant | N′-({4-[(3-Chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N,N-dimethylethane-1,2-diamine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNCCN(C)C)OC)F | C20H23ClFN5O
reactant | ethyl O-trifluoromethanesulfonyl-D-lactate | CCOC(=O)[C@@H](C)OS(=O)(=O)C(F)(F)F | C6H9F3O5S
product | N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-[2-(dimethylamino)ethyl]-L-alanine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN([C@@H](C)C(=O)O)CCN(C)C)OC)F | C23H27ClFN5O3
